US04349684
8-(4.5-Diphenyl-3-methyl-2-oxo-4-imidazolin-1-yl) caprylic acid methyl ester
The product is produced as described in example 1 from 2.4 g of NaH (80% suspension in mineral oil), 20 g of 4.5-diphenyl-1-methyl-4-imidazolin-2-one, 160 cc. of DMF, 19 g of 8-bromocaprylic acid methyl ester and 2.4 g of NaJ.

reactant | NaH | 2.4 g | [H-].[Na+]
reactant | 4.5-diphenyl-1-methyl-4-imidazolin-2-one | 20 g | C1(=CC=CC=C1)C=1NC(N(C1C1=CC=CC=C1)C)=O | C16H14N2O
reactant | 8-bromocaprylic acid methyl ester | 19 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(4.5-Diphenyl-3-methyl-2-oxo-4-imidazolin-1-yl) caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C25H30N2O3
